* H:\E-design 344\LTspice\Draft5.asc
V4 N001 0 5
V2 N003 0 SINE(0 5 50 0 0 8.2)
R8 N007 N008 22k
C3 N008 0 22µ
C1 N009 N010 10µ
R§33k N010 N011 5k
R1 N001 N005 10k
R2 N005 0 10k
R3 N012 N001 10k
R4 0 N012 10k
XU1 N006 N002 N007 XOR_2
R5 N004 N001 10k
R7 0 N004 10k
R9 N001 N011 10k
R10 N011 0 10k
C2 N003 P001 10µ
R6 P001 N004 33k
R12 N001 N006 5000
XU2 N012 N011 N001 0 N006 TLC2272 TLC2272
XU3 N005 N004 N001 0 N002 TLC2272 TLC2272
R11 N001 N002 5000
V1 N009 0 SINE(0 5 50 0 0 0)
.tran 0 1 0.9 0.5 uic
.inc TLC2272.lib
.lib H:\E-design 344\LTspice\XOR.lib
.backanno
.end
