*SRC=1N4733A;DI_1N4733A;Diodes;Zener <=10V; 5.10V  1.00W   Diodes Inc.
Zener
*SYM=HZEN
.SUBCKT 1N4733A  1 2
*        Terminals    A   K
D1 1 2 DF
DZ 3 1 DR
VZ 2 3 3.69
.MODEL DF D ( IS=80.8p RS=0.620 N=1.10
+ CJO=189p VJ=0.750 M=0.330 TT=50.1n )
.MODEL DR D ( IS=16.2f RS=0.296 N=1.87 )
.ENDS