* H:\E-design 344\Draft2.asc
V1 N005 0 PULSE(0 5 0 0.0000001 0.0000001 0.00005 0.0001)
V2 N001 0 12
Q1 N002 N006 0 0 2N3904
R1 N005 N006 1000
C1 N002 N003 10µ
D1 N003 0 D1N4007
D2 N004 N003 D1N4007
C2 N004 0 470µ
R§500 N004 0 560
R2 N001 N002 216
.model D D
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.bjt
.tran 0 1 0 1
.inc diodes.lib
.inc zener.lib
.backanno
.end
